US09126993B2
To a well-stirred solution of MeLi [3.0M/diethyl ether] (67.0 mL, 201 mmol) in anhydrous diethyl ether (150 mL) at −78° C. was added, dropwise, a solution of quinuclidin-3-one (12.5 g, 100 mmol) in diethyl ether (100 mL). The resulting solution was maintained at −78° C. for 1 hour, then at room temperature for 18 hours. Water (60 mL) was added dropwise at 0° C. and the mixture was concentrated in vacuo to give a residue, which was purified by neutral aluminum oxide column chromatography (0-20% MeOH in CHCl3) to give 3-methylquinuclidin-3-ol (10.0 g, 71%) as a light yellow solid. To stirred acetonitrile (250 mL) at 0° C. was slowly added concentrated sulfuric acid (100 mL). The resulting solution was added dropwise to a mixture of 3-methylquinuclidin-3-of (9.10 g, 64.5 mmol) in acetonitrile (250 mL) at 0° C. The reaction mixture was stirred at room temperature for 60 hours, then cooled with an ice bath and basified with aqueous sodium hydroxide solution to pH 10. The mixture was extracted with 5:1 (v/v) CHCl3/i-PrOH. The organic layer was concentrated to afford a residue which was diluted with 2N aq. HCl and washed with 5:1 (v/v) CHCl3/i-PrOH. The remaining aqueous layer was then basified with 2N NaOH and extracted with 5:1 (v/v) CHCl3/i-PrOH. The combined organic layers were washed with water, dried (Na2SO4) and concentrated to give 9.5 g (82%) of the desired compound as a light yellow oil. The 2 enantiomers of the above intermediate are separated from each other by using chiral column on supercritical fluid chromatography (SFC) system.

reactant | MeLi | 201 mmol, 3.0M, 67.0 mL | [Li]C
reactant | quinuclidin-3-one | 100 mmol, 12.5 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | Water | 60 mL | O | H2O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-methylquinuclidin-3-ol | 10.0 g, 71% | CC1(CN2CCC1CC2)O | C8H15NO
